US08664258B2
Preparation of 4-Acetylamino-N-[4-(2-amino-2-methyl-propoxy)-3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-phenyl]-benzamide (Compound 287)
4-Acetamidobenzoyl chloride (11 mg, 0.06 mmol) was added to a solution of 3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)aniline (18 mg, 0.05 mmol) and N,N-diisopropylethylamine (10 μl, 0.06 mmol) in dichloromethane (0.5 mL) and the mixture was stirred at room temperature. After 1 h, the solution was diluted with dichloromethane, washed with 1M hydrochloric acid and saturated sodium bicarbonate, dried with sodium sulfate, filtered, and evaporated to dryness. The residue was dissolved in methanol (0.5 mL). Acetic acid (0.1 mL) was added followed by zinc dust (33 mg) and the mixture was stirred at room temperature. After 4 h, the suspension was made basic with ammonium hydroxide and extracted twice with ethyl acetate. The combined extracts were evaporated to dryness, purified by preparative LCMS and lyophilized to give the product (5.6 mg, 22%) as a TFA-salt. LCMS m/z (%)=502.3 (M+H 81Br 42.9%), 500.4 (M+H 79Br 52.1%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.16 (s, 3 H), 1.18 (s, 3 H), 2.08 (s, 3 H), 3.67 (s, 3 H), 3.82 (d, J=9.60 Hz, 1 H), 3.98 (d, J=9.85 Hz, 1 H), 7.27 (d, J=9.09 Hz, 1 H), 7.67 (s, 1 H), 7.69 (d, J=2.78 Hz, 1 H), 731 (d, J=8.84 Hz, 2 H), 7.85-7.91 (m, 3 H), 7.91 (d, J=8.84 Hz, 2 H), 7.95 (dd, J=8.97, 2.65 Hz, 1 H), 10.22 (s, 1 H), 10.23 (s, 1 H).

reactant | 4-Acetamidobenzoyl chloride | 0.06 mmol, 11 mg | C(C)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C9H8ClNO2
reactant | 3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)aniline | 0.05 mmol, 18 mg | BrC1=C(N(N=C1)C)C=1C=C(N)C=CC1OCC(C)([N+](=O)[O-])C | C14H17BrN4O3
reactant | N,N-diisopropylethylamine | 0.06 mmol, 10 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 4-Acetylamino-N-[4-(2-amino-2-methyl-propoxy)-3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-phenyl]-benzamide | 5.6 mg, 22% | C(C)(=O)NC1=CC=C(C(=O)NC2=CC(=C(C=C2)OCC(C)(C)N)C=2N(N=CC2Br)C)C=C1 | C23H26BrN5O3
